US05232853
Preparation of 4-[(2R, 3S)-3-methoxy-2-methylbutyryloxy]phenyl 4'-octyloxy-4-biphenylcarboxylate
(2R, 3S)-3-methoxy-2-methylbutyric acid prepared in the above i) (0.79 g), 4-hydroxyphenyl 4'-octyloxy-4-biphenylcarboxylate (2.5 g) and tributylamine (2.66 g) were dissolved in dehydrated tetrahydrofuran (40 ml) and 2-chloro-1-methylpyridinium iodide (1.84 g) was added thereto. The mixture was heated under reflux for 7 hours. Insoluble materials were filtered off and the filtrate was concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography [eluent:chloroform:n-hexane (4:1)] and recrystallized from ethanol to obtain the title compound (0.36 g).

reactant | (2R, 3S)-3-methoxy-2-methylbutyric acid | CO[C@H]([C@H](C(=O)O)C)C | C6H12O3
reactant | 4-hydroxyphenyl 4'-octyloxy-4-biphenylcarboxylate | 2.5 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=CC=C(C=C1)O | C27H30O4
reactant | tributylamine | 2.66 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 2-chloro-1-methylpyridinium iodide | 1.84 g | [I-].ClC1=[N+](C=CC=C1)C
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-[(2R, 3S)-3-methoxy-2-methylbutyryloxy]phenyl 4'-octyloxy-4-biphenylcarboxylate | 0.36 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=CC=C(C=C1)OC([C@@H]([C@H](C)OC)C)=O | C33H40O6
